US09062056B2
(R)-3-(5-Amino-2-cyclopropyl-pyrimidin-4-ylamino)-3-phenyl-propionic acid ethyl ester
(R)-3-(2-cyclopropyl-5-nitro-pyrimidine-4-ylamino)-3-phenyl-propionic acid ethyl ester (1.42 g, 4 mmol) was dissolved in ethyl acetate (30 ml). To the solution Pd/C (200 mg) was added and the mixture was stirred under hydrogen at 1 atm for 1 hour. The reaction mixture was filtered and evaporated to dryness to give oil. The residue was used as such for the next step.

reactant | (R)-3-(2-cyclopropyl-5-nitro-pyrimidine-4-ylamino)-3-phenyl-propionic acid ethyl ester | 4 mmol, 1.42 g | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=NC=C1[N+](=O)[O-])C1CC1)=O | C18H20N4O4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (R)-3-(5-Amino-2-cyclopropyl-pyrimidin-4-ylamino)-3-phenyl-propionic acid ethyl ester | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=NC=C1N)C1CC1)=O | C18H22N4O2
